US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and (3-bromo-2-methyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone (156 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of [3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-2-methyl-phenyl]-(4-ethyl-piperazin-1-yl)-methanone was obtained, and then the PMB groups were removed according to Deprotection method 3, to obtain the desired compound (D-158) as a pale yellow powder (53 mg, 54%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | (3-bromo-2-methyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone | 156 mg | BrC=1C(=C(C=CC1)C(=O)N1CCN(CC1)CC)C | C14H19BrN2O
product | [3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-2-methyl-phenyl]-(4-ethyl-piperazin-1-yl)-methanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C(=C(C=CC3)C(=O)N3CCN(CC3)CC)C)CC3=CC=C(C=C3)OC)C=C1 | C44H51N9O4
